Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm just really depressed," History of recent suicide attempt 

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ y/o woman with no major medical 
history and a psychiatric history notable for depression, ___ 
prior suicide attempts without prior hospitalization, and remote 
self-injurious cutting behaviors, who presented to the ED with a 
mental health counselor from ___ after reporting an escalation 
in her depression symptoms and a suicide attempt 1.5 months ago 
by strangulation with an electric cord. The patient has had 
worsening depressed mood, anhedonia, insomnia, and suicidal 
ideation with an attempt via strangulation in setting of recent 
stressors including a break-up and sexual assault in the ___ 
___. 

Upon presentation to the ED, the patient reported that she has 
been feeling unwell since about 1.5 months ago when her most 
recent boyfriend broke up with her.  She stated that this 
breakup followed a pattern in which she is broken up with for 
another person and which greatly affects her feelings of 
self-worth.  She endorsed sad mood, lack of sleep (trouble 
falling asleep for which she has been smoking marijuana to help 
with in last week, trouble staying asleep, wakes up every 
hour),feeling hopeless, poor appetite, loss of concentration 
(poor grades and stressed out with school), and suicidal 
ideations with attempt. 

About ___ weeks before presentation, she took electrical 
extension cords and
wrapped them around her neck. During intake interview, she was 
unclear about whether she was trying to end her life and said 
she "wanted to make things
stop".  She said she "fell asleep" and when she woke up the 
cords were around her neck. She was unsure of how long she had 
been unconscious.  

Per collateral obtained in the ED, counselors said that she made 
an appointment for ___ and declined drop in as she wanted a 
full session.  During that appointment, she scored high on the 
C-CAPs questionnaire on items of depression, hostility to self, 
self harm, and suicidality.  She told counselor ___ that she 
had hurt self (did not say ___ that week and had hurt self 
___ in last month, one time of which was the extension cord 
possible suicide attempt she elaborated to the team in ED.  The 
night before her presentation to the ED accompanied by a 
counselor, she spent two hours on a suicide hotline and said she 
fell asleep afterwards, got up and came to 9am appointment at 
the counseling center.  During that session, the patient told a 
counselor "who knows, maybe tonight I'll try again" in regards 
to suicide attempts. She also told her counselor that she will 
have to find another means of hurting herself because 
suffocation hurts too much. 

Patient reported that she was sexually assaulted on ___ 
___ by a person she did not know. Counselors from ___ 
elaborated that she was briefly seen by them at that time for 
crisis meeting. She did get medical attention and Title 9 
process explained to her, but she did not follow up with the 
counseling center. The patient did press charges but reports the 
investigation has been unrevealing and feels it is a dead end. 

___ lists her interests as bodybuilding, but noted she has 
had a falling out with her friends in that community.  She is 
not close with her parents.  She is the youngest of three 
children with two brothers.  She reported a vague trauma history 
when she was a child but she was unsure whether that plays a 
large role in how she felt at the time of presentation.  She 
stated that she is mainly alone unless at school and she did not 
identify any friends she hangs out with for fun. Her family is 
in ___.  She lives alone in an apartment in ___ 
___ and reported few sources of social support at time of 
interview in the emergency room.  

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: None 
Current treaters and treatment: ___ years ago had Dr. ___ in
___, who is now retired, also had a counselor, found them
helpful 
Medication and ECT trials: Wellbutrin (thought worked well) and 
Fluoxetine
Self-injury: Yes, cutting at age ___ for a few months, states 
that
a friend's parents are what helped her 
Harm to others: None 
Access to weapons: None but used extension cords to hurt self,
has kitchen knives

PAST MEDICAL HISTORY: No major medical history 

 
Social History:
___
Family History:
Patient was adopted as an infant and does not have information 
about the medical or psychiatric histories of her biological 
relatives.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
 VS: T: 98.3 , BP: 127/84, HR: 61, R:16 , O2 sat: 97% on RA

General: Young female, tearful. Well-nourished, well-developed.
Appears stated age.
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. 
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
 Extremities: No cyanosis or edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Sensation: 
Intact
to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: Per Dr. ___ note ___ updated as
relevant:
 Wakefulness/alertness: awake, alert
 *Attention: DOWB ___, 
 *Orientation: ___, day of week, date, month, year, self
 *Memory: ___ registration, ___ recall 5 min later   
 *Fund of knowledge: Average; is college student in third year 
 Calculations: $2.25 is 9 quarters 
 Abstraction: Correctly interprets grass is greener on the other
side 
 *Speech: normal rate, extremely quiet volume
 *Language: fluent, no paraphrasic errors 

Mental Status:
 Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
 Behavior: Calm, cooperative, reserved, appropriate eye-contact,
retardation
 Mood and Affect: "depressed", dysphoric, congruent with mood
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: denies SI/HI/AH/VH, no evidence of delusions 
or
paranoia
 Judgment and Insight: fair/fair

 
Pertinent Results:
___ 02:00PM BLOOD WBC-6.0 RBC-4.70 Hgb-14.8 Hct-44.9 MCV-96 
MCH-31.5 MCHC-33.0 RDW-11.9 RDWSD-41.4 Plt ___
___ 02:00PM BLOOD Neuts-61.5 ___ Monos-8.9 Eos-2.7 
Baso-0.7 Im ___ AbsNeut-3.66 AbsLymp-1.54 AbsMono-0.53 
AbsEos-0.16 AbsBaso-0.04
___ 02:00PM BLOOD Plt ___
___ 02:00PM BLOOD Glucose-81 UreaN-25* Creat-0.8 Na-137 
K-4.1 Cl-101 HCO3-24 AnGap-16
___ 02:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:36PM URINE Color-Yellow Appear-Clear Sp ___
___ 02:36PM URINE Blood-MOD Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 02:36PM URINE RBC-1 WBC-11* Bacteri-FEW Yeast-NONE 
Epi-7 TransE-<1
___ 02:36PM URINE UCG-NEGATIVE
___ 02:36PM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

URINE CULTURE (Final ___: MIXED BACTERIAL FLORA ( >= 3 
COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION. 
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was placed on q15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted. She was on green sharps 
during her admission. 

2. PSYCHIATRIC:
#) Major depressive disorder: Ms. ___ reported worsening 
depressed mood, anhedonia, insomnia, and suicidal ideation with 
an attempt via strangulation in the past 1.5 months in setting 
of recent stressors including a break-up and sexual assault in 
the ___. She denied delusions, hallucinations, or 
symptoms of mania. Her current presentation was thought to be 
most consistent with a major depressive episode without 
psychotic features, which in the context of self-reported prior 
depression was thought to be consistent with the diagnosis of 
major depressive disorder. However, though in the setting of her 
daily marijuana use substance-induced depression could not be 
excluded. Given her recent trauma, it is possible that 
post-traumatic stress was also playing a role in her 
presentation, though she denied flashbacks or hyper-vigilance 
associated with the attack. Given her long history of 
intermittent suicidality and cutting behaviors during her 
adolescence, personality and temperamental factors likely also 
play a role, although she describes periods during which she was 
doing well with no symptoms including last year prior to the 
breakup in ___, making personality pathology as the primary 
cause of her current presentation unlikely. The specter of 
bipolar II was raised in her case given history of depressive 
episodes, mood fluctuation, and impulsivity. However, the 
patient does not describe any particular episodes or periods of 
her life that are entirely consistent with a hypomanic or manic 
episode. She was diagnosed with ADHD and treated as an 
adolescent, which may contribute to the impulse suicidal 
behavior reported prior to her admission. 

3. SUBSTANCE USE DISORDERS:
#)Marijuana: Patient reports daily marijuana use which 
reportedly helps her fall asleep. She does not report any 
decline in her academic or social functioning connected to her 
smoking. She tolerated abstinence on the unit without 
difficulty, and was advised on discharge to avoid future use.

4. MEDICAL
#)No previous or current medical issues. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. Patient was social, bright, and 
polite in the milieu and exercised using a yoga mat and an 
exercise bike. She was interactive and cooperative with peers 
and noted that she felt groups and peer interactions were 
helpful to her. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Patient informed her family of her admission and her father 
visited the unit. A family meeting was arranged to discuss 
arrangements for outpatient follow-up. The patient noted that 
she felt the family meeting was very helpful because it made her 
appreciate how much her parents supported and empathized with 
her. She reported that after the meeting she now felt more 
comfortable with the idea of reaching out to he parents in the 
event that she was struggling in the future. 
Social work reached out to ___ to coordinate 
reentry appointments and follow-up. 

#) Guardianship (if applicable): N/a 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Wellbutrin and Trazodone, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any  questions about medications with the treatment team, and 
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medications. She was 
tolerating both medications well without limiting side effects 
at the time of discharge.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
active SI with attempt in the past 1.5 months. Her static risk 
factors included history of suicide attempt, chronic mental 
illness, history of substance abuse, young age, single status, 
recent stressful events, and history of trauma. Protective 
factors included help seeking behavior and gender. Her 
modifiable risk factors included lack of outpatient treaters, 
access to lethal weapons (electric cord, kitchen knife), 
impulsivity, helplessness, limited coping skills, limited social 
supports, and insomnia. The modifible risk factors addressed 
during her admission included connecting patient with outpatient 
therapist and psychiatrist, initiation of anti-depressant with 
sleep aid, discussion of coping skills, and connection with 
sexual assault survivor resources. Upon discharge, she was more 
future oriented and discussed with the team changes she might 
make to help enhance her connections to her family and social 
supports. 

Our Prognosis of this patient is guarded and contingent on 
engagement with outpatient providers and the success of 
interventions to address her loneliness and social isolation.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  BuPROPion (Sustained Release) 100 mg PO QAM  
2.  TraZODone 50 mg PO QHS:PRN sleep Duration: 7 Days  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder without psychotic features 

 
Discharge Condition:
Level of Consciousness: Alert, fully oriented, and interactive.
Activity Status: Ambulatory - Independent.
MSE
 -Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed in casual clothing
 -Behavior: Calm, cooperative, appropriate eye-contact,
less fidgeting than previous. 
 -Mood and Affect: 'Good,' Affect noticeably bright and mood 
congruent
 -Thought Process: Linear, coherent, goal-oriented. No LOA.
 -Thought Content: No evidence of delusions or paranoia. Denied 
S/H/I. Future-directed. Somewhat concrete but taking increasing 
responsibility for future planning 
 Speech: Fluent, normal rate, normal volume, normal prosody
and variation in tone
 Judgment and Insight: Fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___